US06291530B1
To a solution of 3′,5′-dihydroxyacetophenone (10.0 g, 66 mmol) and ethyl bromoacetate (11.0 g, 66 mmol) in acetone (300 mL) is added K2CO3 (9.0 g, 66 mmol), and the resulting mixture is refluxed for 3 hours. After cooling, the mixture is filtered, and the filtrate is concentrated in vacuo. The residue is chromatographed (silica, 3:2 hexane/EtOAc) to give a mixture of (3-acetyl-5-hydroxyphenoxy)-acetic acid ethyl ester, 3′,5′-dihydroxyacetophenone and [3-acetyl-5-(ethoxycarbonylmethoxy)-phenoxy]-acetic acid ethyl ester (the dialkylation product), which is carried on to the next step without further purification. To a solution of ethyl (3-acetyl-5-hydroxyphenoxy)-acetate (2.4 g, 10.1 mmol), contaminated with 3′,5′-dihydroxyacetophenone and (3-acetyl-5-methoxycarbonylmethoxyphenoxy) acetic acid ethyl ester, and (1-bromoethyl)benzene (2.24 g, 12.1 mmol) in acetone (100 mL) is added K2CO3 (2.09 g, 15.1 mmol), and the resulting mixture is refluxed for 3 hours. After cooling, the mixture is filtered, and the filtrate is concentrated in vacuo. The residue is chromatographed (silica, 3:1 hexane/EtOAc) to give ethyl [5-acetyl-3-(1-phenylethoxy)-phenoxy]-acetate.

reactant | 3′,5′-dihydroxyacetophenone | 66 mmol, 10.0 g | OC=1C=C(C=C(C1)O)C(C)=O | C8H8O3
reactant | ethyl bromoacetate | 66 mmol, 11.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 66 mmol, 9.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (3-acetyl-5-hydroxyphenoxy)-acetic acid ethyl ester | C(C)OC(COC1=CC(=CC(=C1)O)C(C)=O)=O | C12H14O5
reactant | [3-acetyl-5-(ethoxycarbonylmethoxy)-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=CC(=CC(=C1)OCC(=O)OCC)C(C)=O)=O | C16H20O7
reactant | ethyl (3-acetyl-5-hydroxyphenoxy)-acetate | 10.1 mmol, 2.4 g | C(C)(=O)C=1C=C(OCC(=O)OCC)C=C(C1)O | C12H14O5
reactant | (3-acetyl-5-methoxycarbonylmethoxyphenoxy) acetic acid ethyl ester | C(C)OC(COC1=CC(=CC(=C1)OCC(=O)OC)C(C)=O)=O | C15H18O7
reactant | (1-bromoethyl)benzene | 12.1 mmol, 2.24 g | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | K2CO3 | 15.1 mmol, 2.09 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 300 mL | CC(=O)C | C3H6O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | ethyl [5-acetyl-3-(1-phenylethoxy)-phenoxy]-acetate | C(C)(=O)C=1C=C(C=C(OCC(=O)OCC)C1)OC(C)C1=CC=CC=C1 | C20H22O5
